US05153210
A solution of (4-hydroxyphenyl)propan-2-one ethylene ketal (28 g) in ethanol (40 ml) was added to a stirred solution of sodium ethoxide in ethanol (7.1 g of sodium in 100 ml) and the resulting solution stirred at room temperature for 20 minutes. A suspension of 2-picolyl chloride hydrochloride (25 g) in ethanol (60 ml) was added and the resulting mixture was boiled under reflux for 5 hours, cooled and filtered. 2M Hydrochloric acid (100 ml) was added, the solution boiled for 5 h, cooled and neutralised with 2M sodium hydroxide solution. After dilution with water the solution was extracted with dichloromethane and the washed organic phase dried and evaporated to give a dark oil. Bulb to bulb distillation gave [4-(2-pyridylmethyloxy)phenyl]propan-2-one, b.pt. 96°-100° C./0.2 mm, which was used without further purification.

reactant | (4-hydroxyphenyl)propan-2-one ethylene ketal | 28 g | C1COC(CC2=CC=C(C=C2)O)(C)O1 | C11H14O3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 2-picolyl chloride hydrochloride | 25 g | Cl.N1=C(C=CC=C1)CCl
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml, 7.1 g | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | [4-(2-pyridylmethyloxy)phenyl]propan-2-one | N1=C(C=CC=C1)COC1=CC=C(C=C1)CC(C)=O | C15H15NO2
